US05369103
2,3,4,5,6,7-Hexahydro-1-[4-(4-(2-methoxyphenyl)piperazin-1-yl)-3-phenylbut-2-enoyl]-1H-azepine
Oxalyl chloride (3.50 ml) was added to a suspension of 4-[4-(2-methoxyphenyl)piperazin-1-yl]-3-phenylbut-2-enoic acid dihydrochloride (4.17 g, 9.81 mmol) in dichloromethane (50 ml) and a few drops of dry N,N-dimethyl formamide added. After stirring at room temperature for 3 h, the solid formed was filtered off and a solution of triethylamine (3.07 g, 30.4 mmol) and hexamethyleneimine (1.07 g, 10.8 mmol) in dichloromethane (25 ml) was added dropwise to an ice-cooled suspension of the filtered solid in dichloromethane (50 ml). The reaction mixture was stirred at room temperature for 2 h and then concentrated under reduced pressure. The crude product was chromatographed on silica gel, eluting with ethyl acetate: pentane (1:1 to 2:1) to afford the title compound as two isomers. The Z-isomer was obtained as an oil and this was dissolved in diethyl ether and acidified with ethereal hydrogen chloride to afford a colourless hygroscopic powder which was recrystallised from dichloromethane-diisopropylether to give the dihydrochloride as a colourless powder (0.36 g), m.p. 149.4° to 152.9° C.

reactant | Oxalyl chloride | 3.50 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-[4-(2-methoxyphenyl)piperazin-1-yl]-3-phenylbut-2-enoic acid dihydrochloride | 9.81 mmol, 4.17 g | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CC(=CC(=O)O)C1=CC=CC=C1
reactant | triethylamine | 30.4 mmol, 3.07 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethyl formamide | a few drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,3,4,5,6,7-Hexahydro-1-[4-(4-(2-methoxyphenyl)piperazin-1-yl)-3-phenylbut-2-enoyl]-1H-azepine | COC1=C(C=CC=C1)N1CCN(CC1)CC(=CC(=O)N1CCCCCC1)C1=CC=CC=C1 | C27H35N3O2
